US09193720B2
To a solution of 3,5-dimethylpiperidine (1.1 g, 9.86 mmol) and DIEA (3.1 mL, 18 mmol) in anhydrous CH3CN (40 mL) was added isopropyl 2-(5-bromo-4-chloro-2,6-dimethylpyridin-3-yl)-2-oxoacetate (3.0 g, 8.87 mmol) at rt. The resulting mixture was placed in a pre-heated oil bath (80° C.) and stirred for 24 h; cooled, concentrated, and charged (DCM) to a 120 g ISCO silica gel cartridge and gradient eluted (5-15% EtOAc/hexanes) using an Isolera chromatography station to give isopropyl 2-(5-bromo-4-(3,5-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-oxoacetate 756 mg (20%) as a mixture of diastereomers. A sample of the product subjected to prep HPLC on Waters-Atlantis column (30×100 mm S5) running 15 min gradient from 10-100% B (MeOH/water/TFA), yielding two bands. The major isomer. 1H NMR (500 MHz, CDCl3) δ 5.21-5.14 (m, 1H), 2.87 (br. s, 4H), 2.70 (s, 3H), 2.41 (s, 3H), 1.77-1.71 (m, 3H), 1.29 (d, J=6.2 Hz, 6H), 0.85 (d, J=6.6 Hz, 6H), 0.68 (q, J=11.9 Hz, 1H). UPLC (M+H)=413.15.

reactant | 3,5-dimethylpiperidine | 9.86 mmol, 1.1 g | CC1CNCC(C1)C | C7H15N
reactant | DIEA | 18 mmol, 3.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | isopropyl 2-(5-bromo-4-chloro-2,6-dimethylpyridin-3-yl)-2-oxoacetate | 8.87 mmol, 3.0 g | BrC=1C(=C(C(=NC1C)C)C(C(=O)OC(C)C)=O)Cl | C12H13BrClNO3
solvent | CH3CN | 40 mL | CC#N | C2H3N
product | isopropyl 2-(5-bromo-4-(3,5-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-oxoacetate | 756 mg, 20% | BrC=1C(=C(C(=NC1C)C)C(C(=O)OC(C)C)=O)N1CC(CC(C1)C)C | C19H27BrN2O3
